data/mechanism_extracts/JACS/10.1021_jacs.0c05183.json
{"doi": "10.1021_jacs.0c05183", "journal": "JACS", "is_review": false, "rxn_class_summary": "Radical-mediated three-component difunctionalization of alkenes with diazo compounds, delivering hydroalkylation (via photoredox/thiol HAT) or azidoalkylation (via Fe catalysis with TMSN3/TBHP), bypassing cyclopropanation.", "mechanism_family": ["photoredox_combined", "radical_polar_crossover", "direct_SET", "other"], "electrochemical_role": null, "key_intermediates": [{"name": "excited Ru(bpy)3(2+)* photocatalyst", "smiles": null, "role": "reactive"}, {"name": "Ru(I) reductant generated after oxidation of Hantzsch ester", "smiles": null, "role": "transient"}, {"name": "Hantzsch ester radical cation 3a'", "smiles": null, "role": "transient"}, {"name": "alpha-ester carbon radical I (•CH(CO2Et)R) from diazo after loss of N2 and protonation", "smiles": "[CH](C(=O)OCC)C", "role": "reactive"}, {"name": "benzylic alkyl radical II after addition to styrene", "smiles": null, "role": "reactive"}, {"name": "Fe(II)X2 / Fe(III)X2N3 redox couple in azidoalkylation", "smiles": null, "role": "reactive"}, {"name": "tBuO• / tBuOO• radicals from Fe + TBHP", "smiles": "[O]C(C)(C)C", "role": "transient"}, {"name": "HN3 generated from TMSN3 + ROH", "smiles": "N=[N+]=[N-]", "role": "transient"}, {"name": "α-azido benzyl radical 12-C (from addition to α-phenyl vinyl azide)", "smiles": null, "role": "off_pathway"}, {"name": "iminyl radical 12-N after loss of N2 from 12-C", "smiles": null, "role": "off_pathway"}], "electron_flow": "For hydroalkylation: photoexcited Ru(II)* oxidizes Hantzsch ester (PCET) generating Ru(I) and 3a'; Ru(I) reduces the diazo compound, which loses N2 and is protonated to give α-ester radical I that adds to the alkene to form radical II; thiol-mediated HAT from 3a' delivers the C–H bond of product. For azidoalkylation: Fe(II)/TBHP generates tBuO•/Fe(III)X2OR, which reduces the diazo via PCET to radical I; addition to alkene gives radical II; Fe(III)X2N3 (formed by ligand exchange with HN3 from TMSN3) transfers N3 to radical II, regenerating Fe(II).", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "3.0 equiv TEMPO fully suppresses both hydroalkylation (4a: 97%→0%) and azidoalkylation (6a: 73%→0%), consistent with radical intermediates."}, {"name": "α-cyclopropylstyrene (radical clock 8)", "smiles": "C(=C)(c1ccccc1)C1CC1", "purpose": "radical_clock", "observation": "Ring-opened products 9 (88%, E:Z 90:10) and 10/10' observed, confirming radical addition/ring-opening."}, {"name": "D2O (6.5 equiv) in MeCN", "smiles": "[2H]O[2H]", "purpose": "isotope_label", "observation": "Dideuterated product 4a' formed (D at α and γ positions), indicating water/protic solvent provides H atoms in the photocatalytic system."}, {"name": "2-propanol-d8 solvent", "smiles": "[2H]C([2H])([2H])C([2H])(O[2H])C([2H])([2H])[2H]", "purpose": "isotope_label", "observation": "In azidoalkylation, mixture of 6a/6a'/6a'' (8:37:55) indicates partial deuterium incorporation; H also from TBHP/H2O."}, {"name": "preformed cyclopropane 11 (from carbene + 1,1-diphenylethylene)", "smiles": null, "purpose": "intermediate_trap", "observation": "Cyclopropane 11 does NOT open to give 4bh or 6q under either set of conditions, ruling out a cyclopropane intermediate."}, {"name": "α-phenyl vinyl azide 1cr", "smiles": "C(=C)(N=[N+]=[N-])c1ccccc1", "purpose": "intermediate_trap", "observation": "Trapping gives ketone 12 (47%) via iminyl radical 12-N (confirmed by GC-MS of imine 12'), supporting the radical addition pathway; requires light and photocatalyst but not thiol."}, {"name": "Control: omission of Ru(bpy)3Cl2, light, or thiol", "smiles": null, "purpose": "other", "observation": "No or trace product without photocatalyst, light, or Hantzsch ester; replacing Ru with Eosin Y fails – establishes role of each component."}], "evidence_types_used": ["H/D_labeling", "radical_clock", "intermediate_trap_TEMPO", "intermediate_trap_other", "on/off_light_or_current", "product_isotope_distribution", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "Two complementary catalytic manifolds share a common α-ester carbon radical generated from the diazo via PCET (Ru(I)-mediated for hydroalkylation; Fe(II)/TBHP-mediated for azidoalkylation). Authors explicitly exclude a free-carbene/cyclopropane pathway (preformed cyclopropane does not open). For azidoalkylation, azide delivery is proposed via inner-sphere ligand transfer from Fe(III)X2N3 to alkyl radical II rather than free N3• addition."}
